US05064569
A mixture of 8 g of (S,S)-3-methyl-2-chloropentanoic acid, 16 g of optically active p-[5--(2,6-dimethylheptyl)-pyrimidin-2-yl]phenol [obtainable by condensation, known from the literature, of (S)-1,1,3,3-tetraethoxy-2-(2,6-dimethylheptyl)-propane with 4-hydroxyphenylamidine hydrochloride], 11.6 g of N,N-dicyclohexylcarbodiimide, 0.6 g of 4-N,N-dimethylaminopyridine and 300 ml of methylene chloride is stirred overnight at room temperature. After the urea derivative which has precipitated has been filtered off, the filtrate is washed with dilute hydrochloric acid and H2O and the organic phase is worked up in the customary manner. p-[5-(2,6-Dimethylheptyl)-pyrimidin-2-yl]-phenyl (S,S)-3-methyl-2-chloropentanoate is obtained.

reactant | (S,S)-3-methyl-2-chloropentanoic acid | 8 g | C[C@H]([C@@H](C(=O)O)Cl)CC | C6H11ClO2
reactant | p-[5--(2,6-dimethylheptyl)-pyrimidin-2-yl]phenol | CC(CC=1C=NC(=NC1)C1=CC=C(C=C1)O)CCCC(C)C | C19H26N2O
reactant | (S)-1,1,3,3-tetraethoxy-2-(2,6-dimethylheptyl)-propane | C(C)OC(C(C(OCC)OCC)C[C@H](CCCC(C)C)C)OCC | C20H42O4
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | p-[5-(2,6-Dimethylheptyl)-pyrimidin-2-yl]-phenyl (S,S)-3-methyl-2-chloropentanoate | C[C@H]([C@@H](C(=O)OC1=CC=C(C=C1)C1=NC=C(C=N1)CC(CCCC(C)C)C)Cl)CC | C25H35ClN2O2
